US06248739B1
N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propenyl)-1-[2-(4-morpholinyl)ethyl]-4-oxo-1,4-dihydro 3-quinolinecarboxamide
A mixture of N-(4-chlorobenzyl)-1,4-dihydro-6-[3-hydroxy-1-propenyl]-4-oxo-3-quinolinecarboxamide from Preparations No. 11 and 12 (0.52 g) is dissolved in DMF (4 mL), and potassium carbonate (0.78 g) and N-(2-chloroethyl)morpholine hydrochloride (0.52 g) are added. The mixture is heated at 90° C. for 2 h and then partitioned between water and chloroform. The organic layer is concentrated in vacuo to give a brown oil. Column chromatography (elution with 1-7% MeOH/CHCl3) followed by crystallization from EtOAc/hexane gave the title compound as a mixture of isomers. The mixture is then purified by HPLC chromatography on a 0.46×25 cm Chiralcel OD-H column eluting with EtOH at a rate of 0.5 mL/min. This gave 0.161 g of the alkene mixture as approximately a 2:1 mixture of the trans:cis isomers, which is crystallized from ethyl acetate to give 0.13 g of the title compound as a hydrate.

reactant | N-(4-chlorobenzyl)-1,4-dihydro-6-[3-hydroxy-1-propenyl]-4-oxo-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C2=CNC3=CC=C(C=C3C2=O)C=CCO)C=C1 | C20H17ClN2O3
reactant | potassium carbonate | 0.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-chloroethyl)morpholine hydrochloride | 0.52 g | Cl.ClCCN1CCOCC1
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propenyl)-1-[2-(4-morpholinyl)ethyl]-4-oxo-1,4-dihydro 3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C=CCO)CCN2CCOCC2)C=C1 | C26H28ClN3O4
